US07135466B2
N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2-methylpentanoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 2-methylpentanoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2-methylpentanoyl isothiocyanate was prepared using the resultant 2-methylpentanoyl chloride as a starting compound according to the description of the literature. The resultant 2-methylpentanoyl isothiocyanate was dissolved in ethanol (1 ml) to prepare a solution. 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 16 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (69 mg, yield 94%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methylpentanoic acid | 80 mg | CC(C(=O)O)CCC | C6H12O2
reactant | 2-methylpentanoyl chloride | CC(C(=O)Cl)CCC | C6H11ClO
reactant | 2-methylpentanoyl isothiocyanate | CC(C(=O)N=C=S)CCC | C7H11NOS
reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2-methylpentanoyl)thiourea | 69 mg, yield 94% | ClC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=S)NC(C(CCC)C)=O | C24H26ClN3O4S
